US07256305B2
In a 50 mL-volumetric autoclave were added deaerated ethanol (10 mL) and ethyl acetate (10 mL), and thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (S)-1,2-epoxyhexane (2.0 g, 20 mmol, >99% ee). Then to the mixture was added crystalline dicobaltoctacarbonyl complex (171 mg, 0.5 mmol). After covering the autoclave with a cap, carbon monoxide (1 MPa) and hydrogen gas (1 MPa) were introduced therein and the mixture was reacted at 35° C. for 28 hours. After cooling to room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (S)-3-hydroxyheptanoic acid ethyl ester (2.92 g, 85%, >99% ee) as a colorless oil.

reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (S)-1,2-epoxyhexane | 20 mmol, 2.0 g | O1C[C@@H]1CCCC | C6H12O
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (S)-3-hydroxyheptanoic acid ethyl ester | 2.92 g, 85% | C(C)OC(C[C@H](CCCC)O)=O | C9H18O3
